US08309721B2
841 mg of 2-cyano-3,5-difluoropyridine, 880 mg of 2-(2-aminoethyl)pyridine and 1.658 g of potassium carbonate in 12.5 ml of dimethyl sulphoxide are introduced into a 20 ml microwave tube reactor. The mixture is then heated in a microwave for 1 and a half hours at 115° C. The reaction medium is run into 100 ml of water and 100 ml of ethyl acetate. The aqueous phase is re-extracted twice with 50 ml of ethyl acetate. The combined organic phases are washed with water and then with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. After purification by flash chromatography on 70 g of silica gel, elution being carried out with a mixture of ethyl acetate and cyclohexane (40/60 by volume), and the first eluted product being recovered, 549 mg of 2-cyano-5-fluoro-3-(2-pyridin-2-ylethylamino)pyridine are thus obtained in the form of a beige powder, the characteristics of which are the following:

reactant | 2-cyano-3,5-difluoropyridine | 841 mg | C(#N)C1=NC=C(C=C1F)F | C6H2F2N2
reactant | 2-(2-aminoethyl)pyridine | 880 mg | NCCC1=NC=CC=C1 | C7H10N2
reactant | potassium carbonate | 1.658 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl sulphoxide | 12.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-cyano-5-fluoro-3-(2-pyridin-2-ylethylamino)pyridine | 549 mg | C(#N)C1=NC=C(C=C1NCCC1=NC=CC=C1)F | C13H11FN4
